US07569593B2
A mixture of 8-amino-2-naphthol (14.63 g, 91.9 mmol) and di-tert-butyl dicarbonate (21.0 g, 96.2 mmol) in methylene chloride (200 mL) and tetrahydrofuran (200 mL) is stirred under reflux condition for 24 hours. The mixture is then cooled to ambient temperature, filtered and the filtrate is concentrated to dryness. Silica gel chromatography (CH2Cl2/EtOEt=5/95 to 10/90) afforded (7-hydroxy-naphthalen-1-yl)-carbamic acid tert-butyl ester (21.50 g, 90% yield); MS m/z (M+Na+) 282.05.

reactant | 8-amino-2-naphthol | 91.9 mmol, 14.63 g | NC=1C=CC=C2C=CC(=CC12)O | C10H9NO
reactant | di-tert-butyl dicarbonate | 96.2 mmol, 21.0 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | CH2Cl2 EtOEt | C(Cl)Cl.CCOCC
solvent | methylene chloride | 200 mL | C(Cl)Cl | CH2Cl2
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
product | (7-hydroxy-naphthalen-1-yl)-carbamic acid tert-butyl ester | 21.50 g, 90% yield | C(C)(C)(C)OC(NC1=CC=CC2=CC=C(C=C12)O)=O | C15H17NO3
